US07459472B2
5-Fluoro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide was prepared from 5-Fluoro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid (0.06 g, 0.19 mmol) and 2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine (0.063 g, 0.19 mmol) following general procedure A.

reactant | 5-Fluoro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid | 0.19 mmol, 0.06 g | FC=1C(=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)O)OC | C15H10F4O3
reactant | 2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethylamine | 0.19 mmol, 0.063 g | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)N | C17H15ClFN3O
product | 5-Fluoro-4-methoxy-4′-trifluoromethyl-biphenyl-3-carboxylic acid [2-(3′-chloro-4′-fluoro-biphenyl-4-yl)-1-(R)-(3-methyl-[1,2,4]oxadiazol-5-yl)-ethyl]-amide | ClC=1C=C(C=CC1F)C1=CC=C(C=C1)C[C@H](C1=NC(=NO1)C)NC(=O)C=1C=C(C=C(C1OC)F)C1=CC=C(C=C1)C(F)(F)F | C32H23ClF5N3O3
